US07745641B2
In a similar manner to Step 3 of Example 16, 4-chloro-5-methoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (300 mg, 0.904 mmol) was dissolved in THF (12 mL), and the solution was treated with TMEDA (0.30 mL, 2.0 mmol), sec-butyl lithium-hexane solution (1.01 mol/L, 2.0 mL, 2.0 mmol) and iodine (275 mg, 1.08 mmol), followed by purification by slurry using diisopropylether and hexane to obtain 4-chloro-5-methoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (350 mg, yield 85%).

reactant | 4-chloro-5-methoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 0.904 mmol, 300 mg | ClC1=C2C(N(C(C2=CC=C1OC)=O)C(C)(C1=CC=CC=C1)C)O | C18H18ClNO3
reactant | TMEDA | 2.0 mmol, 0.30 mL | CN(C)CCN(C)C | C6H16N2
reactant | iodine | 1.08 mmol, 275 mg | II | I2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 4-chloro-5-methoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 350 mg, yield 85% | ClC1=C2C(N(C(C2=C(C=C1OC)I)=O)C(C)(C1=CC=CC=C1)C)O | C18H17ClINO3
